US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[4-(1H-indol-3-yl)butyl]acetamide
(4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (592 mg, 2.0 mmol) in dry dimethylformamide (10 ml) under argon. The clear solution was cooled to 0° C. and dicyclohexylcarbodiimide (834 mg, 4.0 mmol) was added. The reaction mixture was stirred at RT for 4 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. 5 M sodium hydroxide solution (5 ml, 25 mmol) was added to the aqueous phase and the mixture was diluted with water (300 ml) and stored at 5° C. for 16 h. The product thereby precipitated out as a colourless solid in a yield of 45% (387 mg) with an m.p. of 77-88° C.

reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 2.0 mmol, 592 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 4.0 mmol, 834 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 25 mmol, 5 M, 5 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[4-(1H-indol-3-yl)butyl]acetamide | CN(C1(CCC(CC1)=CC(=O)NCCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C28H35N3O
